US04868337
Preparation of Phenyl(1-hexynyl)isopropoxyborane
The title compound was prepared following the method of Example 14, using 1-hexynyllithium (64 mmol) prepared from 1-hexyne and n-butyl lithium in ethyl ether (64 mL) and phenyldiisopropoxyborane (11.96 g, 58 mmol) dissolved in ethyl ether (60 mL) and quenched with hydrogen chloride in ethyl ether (18.7 mL, 64 mmol). Yield. 11.2 g (86%), bp 102°-105° C. (0.4 mm Hg); n20D 1.5008; proton NMR (CDCl3)δ7.90 (m, 2H), 7.31 (m, 3H), 4.87 (septet, J=18 Hz, 1H), 2.33 (triplet, J=18 Hz, 2H), 1.23 (d, J=18 Hz, 6H), 0.90 (triplet, 3H); boro NMR (CDCl3)δ+36.5 ppm(s); mass spectrum (chemical ionization, isobutene) m/e 229 (M+H, 10%); IR (thin film) 2195, 1324 cm-1. Anal. Calcd. for C15H 21 BO: C, 78.97; H, 9.28. Found: C, 78.18; H, 9.27.

reactant | 1-hexynyllithium | 64 mmol | C(#CCCCC)[Li]
reactant | 1-hexyne | C#CCCCC | C6H10
reactant | n-butyl lithium | C(CCC)[Li]
reactant | phenyldiisopropoxyborane | 58 mmol, 11.96 g | C1(=CC=CC=C1)B(OC(C)C)OC(C)C | C12H19BO2
reactant | hydrogen chloride | Cl | ClH
reactant | isobutene | C=C(C)C | C4H8
solvent | ethyl ether | 64 mL | C(C)OCC | C4H10O
solvent | ethyl ether | 60 mL | C(C)OCC | C4H10O
solvent | ethyl ether | 64 mmol, 18.7 mL | C(C)OCC | C4H10O
product | Phenyl(1-hexynyl)isopropoxyborane | C1(=CC=CC=C1)B(OC(C)C)C#CCCCC | C15H21BO
